plaintext
* NMOS Transistor
M1 2 1 0 0 NMOS
* Current Source
I1 3 0 DC I_bias
* Resistors
R1 3 3 r_o3
R2 3 0 (1/g_m3)
? Missing component
* Voltage input
Vin 1 0 DC Vin
* Voltage output
Vout 2 0
* Model definitions (assuming default parameters)
.model NMOS nmos
