plaintext
* Netlist for the given circuit
VDD 2 0 DC 1.8V
R1 2 4 1k
R2 2 0 10k
R3 2 0 20k
? Missing component
RP 4 3 1k
M1 4 2 3 3 NMOS
.model NMOS NMOS Level=1
.END
