plaintext
* NMOS Transistors
M1 Vout Vin 2 2 NMOS
M2 2 Vb 0 0 NMOS
* Resistor
? Missing component
* Voltage Sources
VDD VDD 0 DC <value>
Vin Vin 0 DC <value>
Vb Vb 0 DC <value>
* Model Definitions
.model NMOS NMOS (LEVEL=1 <other parameters>)
