spice
* SPICE netlist for the given circuit
Vin 1 0 DC 0
VDD 3 0 DC 1.8
R1 3 1 1k
RD 3 4 1k
? Missing component
M1 4 1 2 2 NMOS
C1 1 Vin 1u
CS 2 0 1u
.model NMOS NMOS (LEVEL=1)
.END
