spice
* SPICE Netlist
VDD 2 0 DC 1.8
RG Vin 2 1k
RS X 0 1k
? Missing component
C1 X Vout 1u
* NMOS Transistor
* M1: (Drain, Gate, Source, Body)
M1 X Vin 0 0 NMOS
.model NMOS NMOS (LEVEL=1)
.end
