spice
* SPICE Netlist for the given Schematic
* Voltage Source
Vin 4 3 DC 0V
* Resistor
? Missing component
R2 3 0 0   ; R2 = 0 Ohms (Short circuit)
* OpAmp (ideal, requires specific model in reality)
* Connections:
* Non-inverting input: 4
* Inverting input: 2
* Output: Vout
.end
