* SPICE Netlist
* Component Definitions
R1 2 3 
? Missing component
Vin 4 0 DC
XOPAMP 2 0 3 OPAMP
* Connections
* Op-amp: non-inverting input at node 2, inverting input at ground, output at node 3
* Resistors: R1 connects from node 2 to node 3, R2 from node 4 to node 2
* Voltage Source: Vin connects from node 4 to ground (0)
.end
