spice
* SPICE Netlist
? Missing component
C1 Vout X 1u
* Ideal Op-Amp
XU1 X 3 Vout OPAMP
* Voltage Source (for the purpose of simulation)
Vin Vin 0 DC 0V
.SUBCKT OPAMP + - OUT
* Ideal Op-Amp Model
EOUT OUT 0 VALUE { V(+,-) }
.ENDS OPAMP
.END
