spice
* Op-Amp Circuit Netlist
* Voltage source Vos connected to net 5 and ground
V1 5 0 DC Vos
* Resistor R1 connected between net 5 and net 3
? Missing component
* Capacitor C1 connected between net 3 and net 2
C1 3 2 C1
* Operational Amplifier with power supply connections
* Positive input connected to net 3
* Negative input connected to ground
* Output connected to net 2
* VCC connected to net 3
* VEE connected to net 4
XOP 3 0 2 VCC VEE opamp
* Voltage sources for operational amplifier
VCC 3 0 DC VCC
VEE 4 0 DC VEE
* End of netlist
.end
