spice
* SPICE Netlist for the given circuit
* Voltage Source
Vin 5 0 DC 0
* Resistors
? Missing component
R1 2 0 1k  ; example resistance value for R1
R4 0 3 1k  ; example resistance value for R4
R3 3 0 1k  ; example resistance value for R3
* Op-amp
* A generic op-amp model (parameters may vary based on actual op-amp used)
XOpamp 2 0 0 OpampModel
.model OpampModel opamp (gain=100k bandwidth=1meg)
.end
