* Transistors
Q1 2 3 3 NPN
Q2 3 4 5 NPN
* Resistor
? Missing component
* Voltage Sources
Vb1 2 0 DC ; Voltage value for Vb1 must be specified
Vb2 4 0 DC ; Voltage value for Vb2 must be specified
* Current Source
Rout 1 2 ; Current value for Rout must be specified
* Ground
Vgnd 5 0 0
