* SPICE Netlist for the given schematic
* Transistor Q1 
Q1 Net2 Vb1 Net1 NPN
* Transistor Q2
Q2 Net1 0 0 NPN
* Resistors
RP Net2 Net1 RP_value
? Missing component
* Voltage Source
Vb1 Vb1 0 DC Vb1_value
* End of Netlist
