* SPICE Netlist for the given schematic
* Nodes
* 1: Ground
* 2: Net connected to Q1 base, Rp, and output
* 3: Net connected to I1, Vcc, and Rp
* 4: Input to Q2 base (Vin)
* 5: Q2 emitter to Ground
* Transistors
Q1 3 2 1 NPN
Q2 2 4 1 NPN
* Current Source
I1 3 3 DC <DC value>
* Resistor
? Missing component
* Voltage Source (for Vb1 and Vin)
Vb1 2 1 DC <Voltage value>
Vin 4 1 DC <Voltage value>
* Vcc connection
Vcc 3 1 DC <Supply voltage value>
* End of Netlist
