* SPICE netlist
VREF 1 0 DC <VREF_value>
? Missing component
* PMOS Transistor Q1 (Drain, Gate, Source, Bulk)
M1 2 2 4 4 PMOS
* NMOS Transistor Q2 (Drain, Gate, Source, Bulk)
M2 3 2 3 3 NMOS
* Current source IX
I1 3 0 <IX_value>
* Voltage source is connected to node 1 (VREF) and ground (node 0)
