spice
* Transformer
* Primary (nodes 6, 6) - Secondary (nodes 3, 2)
L1 6 6 1mH
L2 3 2 1mH
K1 L1 L2 1
* Diode Bridge
D1 3 2 D_model
D2 3 2 D_model
D3 3 2 D_model
D4 3 2 D_model
* Capacitor
C1 2 3 100uF
* Resistor
? Missing component
* NPN Transistor
Q1 5 2 3 QN_model
* Voltage Source
V1 6 6 110V AC
.model D_model D
.model QN_model NPN
