plaintext
* SPICE Netlist for the Circuit
VCC  2 0 DC
Vin  5 0 DC
? Missing component
RRC2 2 2 1k  ; Replace 1k with actual resistance if needed
Q1   4 5 0 QNPN
Q2   2 4 0 QNPN
.model QNPN NPN
.model QPNP PNP
.tran 1n 100n
.end
