* Differential Amplifier Circuit
* Transistors
Q1 X 1 2 NPN
Q2 Y 1 2 NPN
* Resistors
? Missing component
RC2 3 Y 10k
* Voltage Sources
Vin_plus +Vin 1 DC 5V
Vin_minus -Vin 1 DC 5V
* Power Supply
VCC 3 0 DC 15V
* Nodes
.NODESET V(X)=5 V(Y)=5
.end
