* SPICE Netlist Example
* Op-Amp with an NPN Transistor Amplifier
* Operational Amplifier
XU1 V_in 0 V_out opamp
* NPN Transistor Q1
Q1 N001 Vin 0 NPN
* Resistor
? Missing component
* Voltage Sources
Vcc Vcc 0 DC 10V
Vin Vin 0 SIN(0 1 1k)
