* Differential Amplifier SPICE Netlist
VCC 3 0 DC VCC
? Missing component
RC2 3 3 RC
Q1 2 1 5 NPN
Q2 2 6 5 NPN
IEE 5 0 DC IEE
* Nodes:
* 1: Vin1
* 2: Input common
* 3: VCC
* 4: Vout1
* 5: Common emitter node / Ground
* 6: Vin2
* 7: Vout2
.END
