* Voltage Sources
Vin1 5 6 DC V
Vin2 2 6 DC V
* Resistors
Rx1 5 1 R
Rx2 2 3 R
? Missing component
Rc2 3 4 R
* Current Sources
Igm1 4 1 GM1
Igm2 4 3 GM2
