* NMOS transistor Q1
Q1 2 1 0 0 NPN
* NMOS transistor Q2
Q2 3 4 0 0 NPN
* Resistor R01
R01 2 0 1k
* Resistor R02
? Missing component
* Voltage input source Vin1
Vin1 1 0 DC 5V
* Voltage input source Vin2
Vin2 4 0 DC 5V
