* Component connections
Ix 3 4 DC 1.0
* Resistors
Rrpi1 4 5 rpi1_value
Rrpi2 2 3 rpi2_value
? Missing component
Rc2 7 0 RC_value
* Voltage Controlled Voltage Sources
Gm1 5 0 4 0 gm1_value
Gm2 2 0 3 0 gm2_value
* Voltage Source
Vx 3 0 DC vx_value
