* SPICE Netlist
* Voltage source
VDD 6 0
* Current source
IIN 6 5 DC 0
* Resistors
? Missing component
R2 3 2 R2_value
* NMOS Transistors
M1 4 4 7 7 NMOS_MODEL
M2 3 4 2 2 NMOS_MODEL
* .MODEL statement
.model NMOS_MODEL NMOS
* Simulation commands
*.op
*.end
