plaintext
* NMOS Transistor
M1 3 4 2 2 NMOS
* Resistor
? Missing component
* Voltage Source
VDD 3 0 DC 5V ; Value assumed as 5V, modify as needed
* Input
Vin 4 0 DC 1V ; Value assumed as 1V, modify as needed
.model NMOS NMOS(Level=1)
.end
