plaintext
* SPICE Netlist
* NMOS Model
.model NMOS NMOS (LEVEL=1)
* PMOS Model
.model PMOS PMOS (LEVEL=1)
* Transistors
M1 2 5 6 6 NMOS * T1: D G S B (drain, gate, source, body)
M2 4 5 3 3 PMOS * T2: D G S B (drain, gate, source, body)
* Current Sources
IIN 7 8 DC 1mA
IOUT 4 3 DC 1mA
* Resistors
R1 8 2 1k
? Missing component
* Voltage Supply
VDD 7 3 DC 5V
* End of Netlist
