spice
* Circuit Description
VCC VCC 0 DC 15V
* Transistor Q1
Q1 Vout Vin1 P NPN
* Transistor Q2
Q2 Vout Vin2 P NPN
* Resistors
RC1 VCC Vout 1k
? Missing component
REE P 0 1k
* Current Source IEE
IEE P 0 DC 1mA
* Model Definitions
.model NPN NPN (IS=1E-14 BF=100)
