plaintext
* SPICE Netlist for given schematic
* NPN Transistors Q1 and Q2
Q1 Y X 0 NPN
Q2 Vout Vb1 Y NPN
* Resistor
RS X Vin 10k
? Missing component
* Capacitor
Cmu1 X Y 1u
* Voltage Source
VCC VCC 0 DC 15V
* Voltage at Base Q2
Vb1 Vb1 0 DC 0.7V
* Simulation Commands
.TRAN 1u 10m
.END
