plaintext
* Transistors
Q1 Y X 0 Q1_Model
Q2 3 2 0 Q2_Model
* Resistors
? Missing component
RL Vout 3 1k
* Voltage Sources
Vin Vin 0 DC 0
Vcc VCC 0 DC 15
Vb1 2 0 DC 5
* Capacitors
Cpi1 X 0 2*Cmu1
Cpi2 Y 0 Ccs1+Cpi2+2*Cmu1
Cmu2 Vout 2 Ccs2+Cmu2
* Models
.model Q1_Model NPN(IS=1E-14 BF=100)
.model Q2_Model NPN(IS=1E-14 BF=100)
* End of netlist
