spice
* Netlist for the given schematic
M1 X Y 0 0 NMOS
M2 3 Vb1 2 2 PMOS
M3 2 Vb2 3 3 PMOS
Vb1 3 0 DC <Vb1_value>
Vb2 3 0 DC <Vb2_value>
Vin X 0 DC <Vin_value>
VDD 2 0 DC <VDD_value>
? Missing component
RL Vout 2 4 <RL_value>
* Specify model definitions for NMOS and PMOS
.model NMOS NMOS (Level=1)
.model PMOS PMOS (Level=1)
.end
