* Resistors
? Missing component
RD VDD Vout 10k
* Capacitors
C1 Vout 0 CQD3+CDB3
C2 X 0 CGD1
* Transistors
M1 Y X 0 0 NMOS
M3 Y Vb VDD VDD PMOS
* Voltage Sources
V1 Vin 0 DC 0V
VDD VDD 0 DC 5V
Vb Vb 0 DC 2.5V
* Connections
.nodeset V(X)=0 V(Y)=0
