spice
* NMOS Transistors
M1 X Vin 5 5 NMOS
M2 Vout X 6 6 NMOS
* Resistors
RD_left 2 X 2k
? Missing component
* Capacitors
CL_left X 0 1p
CL_right Vout 0 1p
* Voltage Source
VDD 2 0 DC 5V
* Model Definitions
.model NMOS NMOS level=1
