* SPICE Netlist
VDD VDD 0 DC 5V
? Missing component
RS Vin Vb 10k
RP Vb 0 10k
* Transistor Definitions
M1 Vb Vin 0 0 NMOS
M2 Vout Vb 0 0 NMOS
* Input Voltage
Vin Vin 0 DC 0V
* End of Netlist
