plaintext
*MOSFET Amplifier Circuit
* NMOS Transistor
M1 2 1 3 3 NMOS_MODEL
* Resistors
RD 4 2 10k
R1 2 5 10k
? Missing component
* Voltage Source
VDD 4 0 DC 5V
* Input Voltage Source
Vin 1 0 DC 1V
.MODEL NMOS_MODEL NMOS(Level=1)
.END
