spice
* NMOS Amplifier Circuit
VDD VDD 0 DC 10
Vin0 Vin0 0 DC 1
M1 Vout Vin0 Vb Vb NMOS
RD VDD Vout 10k
? Missing component
* Model parameters for NMOS
.model NMOS NMOS (Level=1)
.end
