spice
* NMOS Transistors
M1 4 1 0 0 NMOS
M2 2 3 0 0 NMOS
* Current Source
Iin 5 0 DC <value>
* Voltage Source
VDD 3 0 DC <value>
* Resistors
? Missing component
* Model Definitions
.model NMOS NMOS(Level=1)
