plaintext
* Transistors
M1 3 4 2 2 NMOS
M2 5 2 4 4 PMOS
* Current Source
Iin 2 0 DC
* Resistors
? Missing component
RD2 5 2 1k
RF 4 2 1k
* Voltage Source
VDD 5 0 DC 5V
* Control Voltages
Vb 4 0 DC 1V
* Analysis
.op
.end
