plaintext
* NMOS Amplifier Circuit
M1 Vout Vin 0 0 nmos
? Missing component
R1 Vout 0 R1_value
R2 Vout 0 R2_value
VDD VDD 0 DC VDD_value
Vin Vin 0 DC Vin_value
.model nmos NMOS (Level=1)
*.end
