spice
* Netlist for the schematic
*MOSFETs
M1 4 3 0 0 NMOS
M2 5 4 2 2 PMOS
*Current Source
Iin 3 0 DC
*Resistors
RD1 2 3 RD1_value
? Missing component
RF 4 5 RF_value
*Voltage Nodes
VDD 2 0 DC VDD_value
Vb 4 0 DC Vb_value
*Analysis
.tran 1n 100n
.end
