spice
* SPICE Netlist
* MOSFET
M3 5 6 2 2 NMOS
* Resistors
RD 5 6 1k
R1 4 3 1k
? Missing component
* Voltage Source
VDD 5 0 DC 12V
* Op-Amp
* Assuming ideal op-amp, characteristic internally defined
XOP1 4 4 Y OPAMP
* .model Declaration (Assuming model subcircuit)
.model NMOS NMOS (Level=1)
.subckt OPAMP noninv inv out
+ (subcircuit details, if any)
.ends OPAMP
* Simulation Control
.control
run
.endc
.end
