spice
* SPICE Netlist for the given circuit diagram
* Define components
Iin 2 0 DC 0
? Missing component
RC 22 2 1k
Q1 2 22 0 npn
VCC 2 22 DC 5
* Model definitions
.model npn NPN(Is=1e-14 VAF=100)
* Simulation commands
.tran 0.1ms 100ms
.end
