* NPN Transistor
Q1 N009 N002 0 NPN_MODEL
* Resistors
RC VCC N009 1000
? Missing component
R2 Vout 0 10000
* Voltage Source
VCC VCC 0 DC 10
* Input Voltage Source
Vin N002 0 SIN(0 1 1k)
.model NPN_MODEL NPN (IS=1E-14 BF=100)
