spice
* Transistors
Q1 N2 Vb N2 NMOS
Q2 Vout N3 GND PMOS
* Current Sources
Iin N2 GND DC 1mA
Icc Vcc N4 DC 1mA
* Resistors
R1 Vout N2 1k
R2 N2 GND 1k
? Missing component
* Voltage Source
Vcc Vcc GND DC 5V
* Analysis
.op
.end
