spice
* SPICE Netlist for the given schematic
Vi 7 8 DC 0
RS 7 4 1k
Rpi 4 5 1k
Ggm 3 2 VALUE {gm*V(5,0)}
RO 3 6 1k
? Missing component
* .control
* run
* print V(3)
* .endc
.end
