* SPICE Netlist
R1 5 6 R1_value
C1 5 6 C1_value
? Missing component
C2 3 0 C2_value
RF1 2 0 RF1_value
RF2 2 4 RF2_value
* Op-Amp Model
* Inverting input at Node 2, Non-inverting input at Node 3, Output at Node 0
XOPAMP 3 2 0 opamp
* Voltage Source for Op-Amp (if needed)
VDD 4 0 DC VDD_value
VSS 0 4 DC VSS_value
.end
