spice
* SPICE Netlist for BJT Circuit
* NPN transistor Q1
Q1 4 5 3 NPN_MODEL
* PNP transistor Q2
Q2 2 4 1 PNP_MODEL
* Load Resistor
? Missing component
* Voltage Sources
VCC 5 0 DC 10V
VEE 1 0 DC -10V
* Continuation of the circuit design
VOUT 3 0
.model NPN_MODEL NPN (IS=1e-16 BF=100)
.model PNP_MODEL PNP (IS=1e-16 BF=100)
.END
