spice
* SPICE Netlist
* Voltage Sources
VCC 4 0 DC VCC
VEE 5 2 DC VEE
* Resistor
? Missing component
* NMOS Transistors
M1 4 7 6 6 NMOS
M2 7 5 6 6 NMOS
* Model Definitions
.model NMOS NMOS
.end
