spice
* SPICE Netlist for the given schematic
* Voltage source
V1 Vin 0 DC 0
* Resistors
R1 Vin 1 R1_value
? Missing component
RX2 3 4 RX_value
RX3 4 5 RX_value
* Capacitors
C1 2 3 C_value
C2 5 0 C_value
* Operational Amplifiers
* Note: Ideal op-amps are often modelled as a voltage-controlled voltage source in SPICE
A1 0 2 3 opamp
A2 0 4 3 opamp
* Additional Elements
* opamp subcircuit definition if needed
.subckt opamp in+ in- out
EOPA out 0 in+ in- 100MEG
.ends opamp
.end
