spice
* NMOS Transistor (Drain, Gate, Source)
M1 4 3 5 NMOS_MODEL
* Resistors
? Missing component
R2 3 6 1k
RD 4 5 1k
* Voltage Source
VDD 3 0 DC 1.8
* Current Source
ID 4 5 DC 0
.model NMOS_MODEL NMOS
.end
