* SPICE Netlist
V1 N1 0 DC <V1_VALUE>
VX N2 N3 DC <VX_VALUE>
G1 N2 N1 N3 <GM_VALUE>
? Missing component
* Define nodes:
* N1: Positive terminal of V1
* N2: Node at the junction of gm, R0 and positive terminal of VX
* N3: Negative terminal of VX
* Values need to be specified: <V1_VALUE>, <VX_VALUE>, <GM_VALUE>, <R0_VALUE>
.ends
