* NMOS Amplifier Circuit
Vdd 2 0 DC 5V  * Voltage source Vdd
Vin 1 0 DC 1V  * Voltage source Vin
M1 3 1 0 0 NMOS L=1u W=2u
? Missing component
R2 2 3 1k  * Resistor to Vdd
* Node Mapping:
* 1 - Input voltage Vin
* 2 - VDD
* 3 - Vout
* 4 - Ground
.model NMOS NMOS LEVEL=1
.end
