* Components
C1 1 2
R1 3 4 1k
R2 2 0
? Missing component
M1 5 4 2 2 NMOS
* Voltage Source
VDD 3 0 1.8V
* Node Definitions
* 0: Ground
* 1: Input
* 2: Node X
* 3: VDD
* 4: Gate of M1
* 5: Drain of M1 / Vout
.end
