* NMOS transistor where Drain is Y, Gate is X, Source is 0 (ground)
M1 Y X 0 0 NMOS
* Resistors
? Missing component
RD Y 3  /* Resistance between net Y and VDD */
R2 2 0  /* Resistance between net 2 and ground */
* Capacitor
C1 D 2  /* Capacitance between input D and net 2 */
* Voltage Source
VDD 3 0 DC /* DC Voltage source VDD between net 3 and ground */
* Input
Vin D 0 SIN(0V 1V 1kHz) /* Example input source - Modify as needed */
* .model statement for NMOS
.model NMOS NMOS LEVEL=1
