spice
* NMOS Differential Amplifier Example
* Voltage Source
VDD 2 0 DC {VDD_VALUE}
* Resistors
? Missing component
R2 4 0 {R2_VALUE}
RD 2 3 {RD_VALUE}
* NMOS transistor
M1 3 X 0 0 NMOS_MODEL
* Additional nodes
X 4 0
* Model parameter (example, replace with specific model details)
.model NMOS_MODEL NMOS (LEVEL=1)
.END
