spice
* SPICE Netlist
* Voltage Sources
V1 4 0 DC 0
V2 6 0 DC 0
* Current Sources
I1 5 0 DC 0.001
I2 3 0 DC 0.002
* Resistors
? Missing component
R2 2 3 1k
* Operational Amplifier
* Connecting the non-inverting input to Vi node
* Connecting the inverting input to Vy node
* Output connected to Vo
XOPAMP 3 2 44 OPAMP_MODEL
* .MODEL statement for the Op-Amp as an ideal model
.model OPAMP_MODEL opamp
