* Nodes: 
* 1 - Drain of M1
* 2 - Source of M1, Ground
* 3 - Gate of M1
* 4 - Vin
* 5 - Ground
* 6 - Ground
* 7 - Vout 
Vin 4 5 DC 0
M1 1 3 2 2 NMOS_MODEL
? Missing component
Rap 7 2 8
* Model for NMOS (example parameters, replace as needed)
.model NMOS_MODEL NMOS (level=1)
.end
