plaintext
* Example SPICE Netlist
Vs 0 2 DC 0
I1 2 0 DC 0
? Missing component
M1 5 2 3 3 NMOS W=1u L=1u
XOPAMP 2 4 0 OPAMP
* Models
.model NMOS NMOS
.subckt OPAMP +out -in vdd 
.ends OPAMP
.end
