* NMOS Transistor
M1 R_out1 4 rO rO NMOS
* Resistors
RrO rO 4 r_O_value
? Missing component
* Capacitor
C1 rO 4 C_value
* Nodes
VDD 3 0 DC VDD_value
* Ground
VSS 2 0 0
