spice
* NMOS Inverter Circuit Netlist
* V_DD = 1.8V DC Power Supply
VDD net2 0 DC 1.8V
* Resistors
R1 net2 net1 2k
? Missing component
* NMOS Transistor
M1 net1 net2 0 0 NMOS
.model NMOS NMOS(Level=1)
.end
