plaintext
* Example SPICE Netlist
* Voltage Sources
Vin 2 0 DC 0
VDD 3 0 DC 1.8
* Capacitors
C1_1 2 6 1u
C1_2 4 0 1u
* Current Source
I1 4 0 DC 1m
* Resistors
R1 6 3 1k
? Missing component
* MOSFET
M1 4 2 0 0 NMOS
* Analysis
.op
.end
