plaintext
* SPICE netlist for the given circuit
V1 VDD 0 DC 5
M1 2 3 6 6 NMOS
C1 2 0 1u
CB 5 0 10u
R1 5 6 1k
? Missing component
R3 4 2 1k
R4 6 0 1k
RD 2 VDD 1k
.END
