spice
* NMOS Common Source Amplifier
M1 Vout 3 0 0 NMOS_L W=1u L=0.18u
RD 4 Vout 10k
RG 3 2 5k
? Missing component
CG 2 0 10pF
Vin 1 0 DC 0 AC 1
VDD 4 0 DC 1.8
.model NMOS_L NMOS LEVEL=1
.end
