* Netlist for given schematic
Vdd 2 0 DC 10
Vx 4 0 DC 5
Ix 2 Vdd DC 1m
R1 3 2 1k
? Missing component
M1 2 2 4 4 NMOS L=1u W=2u
.model NMOS NMOS (LEVEL=1)
.end
