spice
* NMOS Transistor M1
M1 2 4 7 7 NMOS 
* Current Source I1
I1 5 2 DC 1A
* Resistor rO
? Missing component
* Voltage Source Vin
Vin 7 6 DC 1V
* Simulation Control
.tran 1n 10n
* Models
.model NMOS NMOS (Level=1)
