* SPICE Netlist
* Voltage Sources
VDD 4 0 DC <value>
Vb 3 0 DC <value>
Vin 1 0 DC <value>
* PMOS Transistor
M2 2 3 4 4 PMOS_MODEL
* NMOS Transistor
M1 2 1 0 0 NMOS_MODEL
* Resistor
? Missing component
* Output
Vout 2 0
* End of Netlist
