plaintext
* Transistor M1 (NMOS)
M1 4 2 0 0 NMOS
* Transistor M2 (PMOS)
M2 4 3 3 3 PMOS
* Resistor RD
? Missing component
* Voltage Source VDD
VDD 3 0 DC VDD_VALUE
* Voltage Source Vin
Vin 3 3 DC Vin_VALUE
* Voltage Source Vb
Vb 2 0 DC Vb_VALUE
* Simulation commands
.END
