* SPICE Netlist for the given schematic
VDD 3 0 DC VDD
VIN 1 0 DC Vin
M1 5 1 0 0 NMOS
M2 5 2 3 3 PMOS
? Missing component
R2 2 5 R2_value
* Specify models for NMOS and PMOS if necessary
.model NMOS NMOS
.model PMOS PMOS
.end
