spice
* SPICE Netlist for the provided circuit
M1 2 3 1 1 NMOS
M2 2 1 4 4 PMOS
? Missing component
VDD 4 0 DC VDD
* Specify model parameters for transistors
.model NMOS NMOS
.model PMOS PMOS
.end
