* SPICE Netlist
* Voltage Sources
VDD 6 0 DC <VDD_VALUE>
VinCM 1 0 DC <VinCM_VALUE>
Vb 2 0 DC <Vb_VALUE>
* Resistors
? Missing component
RD2 6 8 <RD_VALUE>
* NMOS Transistors
M1 3 1 7 7 NMOS_MODEL
M2 4 1 8 8 NMOS_MODEL
M3 5 2 9 9 NMOS_MODEL
* Nodes
* 1 - Vin,CM
* 2 - Vb
* 3 - Node X
* 4 - Node Y
* 5 - Node P
* 6 - VDD
* 7 - Source of M1 / Drain of M1
* 8 - Source of M2 / Drain of M2
* 9 - Source of M3 / Ground
.end
