spice
* SPICE Netlist for the given circuit
VDD VDD 0 DC 5V
Vin1 5 0 DC
Vin2 7 0 DC
M1 5 2 0 0 NMOS
M2 7 3 0 0 NMOS
RD1 4 5 1k
? Missing component
* Assign nodes to outputs
Vout1 5 0 DC
Vout2 7 0 DC
.END
