spice
* SPICE Netlist for the given schematic
* Transistors
M1 2 2 2 2 NMOS
M2 3 2 3 3 NMOS
* Resistors
RD1 6 2 RD
RD2 6 3 RD
? Missing component
rO2 3 3 rO2
* Current Source
I1 2 4 ISS
* Voltage Source
V1 2 4 DC
* Node Definitions
* 2: Source of M1
* 3: Source of M2
* 6: VDD
* 4: Ground
.END
