* NMOS Transistor
M1 6 1 6 NMOS
M2 3 2 3 NMOS
* Resistors
? Missing component
RD2 4 3 RD2
R_2Rs 6 3 2RS
* Current Sources
I1 6 0 DC Iss/2
I2 3 0 DC Iss/2
* Voltage Source
VDD 5 4 DC VDD
* Connections to nodes
X 1 0
Y 2 0
.END
