* Nodes: 1 = Vin, 2 = Vout, 3 = Ground, 4 = Iss/2 (NMOS), 5 = Vb (PMOS), 6 = RD (M4 side)
*        8 = RD (M3 side), 22 = VDD, 33 = Iss (NMOS)
M1 2 1 3 3 NMOS
M2 2 33 3 3 NMOS
M3 8 5 4 4 PMOS
M4 6 22 4 4 PMOS
RD1 8 2 RD
? Missing component
I1 33 3 DC ISS
VDD 22 0 DC VDD
VIN 1 0 DC Vin
VB 5 0 DC Vb
