plaintext
* MOSFET Differential Pair Circuit
VDD 5 0 DC VDD
Vin 9 0 DC Vin
* Resistors
? Missing component
RD2 8 2 RD
* NMOS Transistors
M1 2 9 4 4 NMOS
M2 2 6 4 4 NMOS
* Current Source
I1 3 7 DC Icont1
* Connections
Vcont1 3 0 DC Vcont1
.END
