spice
* Transistors
M1 2 Vin1 7 7 NMOS
M2 2 3 7 7 NMOS
M3 2 1 5 5 PMOS
M4 6 2 5 5 PMOS
M5 7 4 0 0 PMOS
* Resistors
R1 5 1 <Resistor_Value>
? Missing component
* Voltage and Current Sources
VDD 5 0 DC <Voltage_Value>
Vin1 Vin1 0 DC <Voltage_Value>
Vin2 3 0 DC <Voltage_Value>
Vb1 4 0 DC <Voltage_Value>
Vb2 1 0 DC <Voltage_Value>
* Simulation Commands
.OP
.END
