spice
* NMOS Transistors: M1, M2, M5
M1 2 4 3 3 NMOS
M2 2 4 3 3 NMOS
M5 3 3 0 0 NMOS
* PMOS Transistors: M3, M4
M3 5 8 2 2 PMOS
M4 5 4 2 2 PMOS
* Resistors
RD 3 5 10k
? Missing component
* Voltage Sources
VDD 5 0 DC 5V
Vb1 8 0 DC 1V
Vb 3 0 DC 1V
Vin1 4 0 DC 1V
Vin2 4 0 DC 1V
* Output
Vout 2 0
.END
